US04521629
Preparation of 1,5-bis(α,α,α-trifluoro-p-tolyl)-1,4-pentadien-3-one using a phase transfer agent
A solution of 4-trifluoromethylbenzaldehyde (64.2 g; 0.369 mol) in heptane (70 ml) is stirred under a nitrogen atmosphere, then sodium hydroxide (15 g; 10% aq), water (30 g), and bis(2-hydroxyethyl)tallowamine N-oxide (6 g) are added. Next a solution of acetone (10.7 g; 0.184 mol) in heptane (30 ml) is added at 25° C. to 35° C. over a period of two hours. The resulting slurry is then stirred for two hours at 25° C. to 30° C. Concentrated hydrochloric acid (9.4 ml) and isopropyl alcohol (48 ml) are then added and the mixture heated at reflux for 1.5 hours, and is then cooled to 20° C. The solid is filtered, washed with heptane (40 ml) and water, and is dried to afford 54.5 g of 99.9% pure title product (yield: 79.1%), mp 153° C. to 155° C.

reactant | 4-trifluoromethylbenzaldehyde | 0.369 mol, 64.2 g | FC(C1=CC=C(C=O)C=C1)(F)F | C8H5F3O
reactant | sodium hydroxide | 15 g | [OH-].[Na+]
reactant | acetone | 0.184 mol, 10.7 g | CC(=O)C | C3H6O
reactant | hydrochloric acid | 9.4 ml | Cl | ClH
solvent | heptane | 70 ml | CCCCCCC | C7H16
solvent | heptane | 30 ml | CCCCCCC | C7H16
solvent | isopropyl alcohol | 48 ml | C(C)(C)O | C3H8O
solvent | water | 30 g | O | H2O
product | 1,5-bis(α,α,α-trifluoro-p-tolyl)-1,4-pentadien-3-one | yield: 79.1% | FC(C1=CC=C(C=C1)C=CC(C=CC1=CC=C(C=C1)C(F)(F)F)=O)(F)F | C19H12F6O
